US05219482
Preparation of N-(n-nonyl)-maleimide
One equivalent each of maleic anhydride and n-nonylamine are charged into a 1 liter 3-neck round bottom glass flask containing 300 ml xylene, a reflux condenser with a Dean-Stark attachment, Teflon-coated magnetic stirring bar, and a thermometer. The contents are heated to 120° C. for about 15 hours, the reaction extent being monitored by the amount of water collected. After 1 equivalent of water is collected, the reaction solvent is flash distilled off. The absence of an infrared absorbance at 1830 cm-1 and 1791 cm-1 is evidence of anhydride consumption; the presence of an infrared absorbance at 1772 cm-1 is evidence of imide formation.

reactant | maleic anhydride | One equivalent | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | n-nonylamine | C(CCCCCCCC)N | C9H21N
reactant | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
solvent | water | 1 equivalent | O | H2O
product | N-(n-nonyl)-maleimide | C(CCCCCCCC)N1C(C=CC1=O)=O | C13H21NO2
